US04213952
reacting fluosilicic acid in aqueous solution with sodium sulfate to form sodium fluosilicate in a purification zone;

reactant | fluosilicic acid | F.F.F[Si](F)(F)F
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | sodium fluosilicate | F[Si-2](F)(F)(F)(F)F.[Na+].[Na+] | InChI=1S/F6Si.2Na/c1-7(2,3,4,5)6;;/q-2;2*+1
